US07932270B2
To a solution of tert-butyl (3-((1,3-dioxoisoindolin-2-yl)methyl)pyridin-2-yl)methylcarbamate (30 g, 81 mmol) in MeOH (450 mL) at 0° C. was added hydrazine (25 mL, 810 mmol). The mixture was allowed to warm to room temperature and stirred overnight. The precipitate was filtered off, and the filtrate was concentrated to dryness. The residue was triturated with dichloromethane (500 mL) and filtered. Concentration of the filtrate afforded tert-butyl (3-(aminomethyl)pyridin-2-yl)methylcarbamate in quantitative yield (18.7 g). LRMS (M+H+) m/z 238.1.

reactant | tert-butyl (3-((1,3-dioxoisoindolin-2-yl)methyl)pyridin-2-yl)methylcarbamate | 81 mmol, 30 g | O=C1N(C(C2=CC=CC=C12)=O)CC=1C(=NC=CC1)CNC(OC(C)(C)C)=O | C20H21N3O4
reactant | hydrazine | 810 mmol, 25 mL | NN | H4N2
solvent | MeOH | 450 mL | CO | CH4O
product | tert-butyl (3-(aminomethyl)pyridin-2-yl)methylcarbamate | quantitative yield | NCC=1C(=NC=CC1)CNC(OC(C)(C)C)=O | C12H19N3O2
